US08404709B2
3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl trifluoromethanesulfonate
134 mg (0.37 mmol) of 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one are introduced into 5 ml of pyridine, 80 μl (0.75 mmol) of trifluoromethanesulfonic anhydride are added, and the mixture is stirred at room temperature for 1 h. The mixture is then concentrated and the residue is purified by preparative HPLC (eluent: acetonitrile/water with 0.1% formic acid gradient 20:80→95:5). 129 mg (70% of theory) of the title compound are obtained.

reactant | 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 0.37 mmol, 134 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
reactant | trifluoromethanesulfonic anhydride | 0.75 mmol, 80 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C2C(C(=C(NC2=CC=N1)C)C(C)=O)C=1C=CC=C2C(C=C(OC12)C)=O)(F)F | C22H17F3N2O6S
